US07956222B2
5-Bromo-3-fluorobenzene-1,2-diol
To a 1 N aqueous solution of sodium hydroxide (230 mL, 0.23 mol), 5-bromo-3-fluoro-2-hydroxybenzaldehyde (45.0 g, 0.21 mol) was added at room temperature, and a 6% hydrogen peroxide solution (225 mL) was added dropwise over five minutes at room temperature. After the reaction mixture was stirred at room temperature for two hours, a saturated aqueous solution of sodium thiosulfate (150 mL) was added thereto at room temperature. The mixture was extracted three times with ethyl acetate (450 mL), the organic layer was washed sequentially with a 1 N aqueous solution of hydrochloric acid (150 mL) and saturated saline, dried over anhydrous magnesium sulfate, and filtered through silica gel. The solvent was distilled off from the resultant filtrate under reduced pressure to give 39.0 g of the title compound (yield: 92%).

reactant | sodium hydroxide | 0.23 mol, 230 mL | [OH-].[Na+]
reactant | 5-bromo-3-fluoro-2-hydroxybenzaldehyde | 0.21 mol, 45.0 g | BrC=1C=C(C(=C(C=O)C1)O)F | C7H4BrFO2
reactant | hydrogen peroxide | 225 mL | OO | H2O2
solvent | sodium thiosulfate | 150 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | 5-Bromo-3-fluorobenzene-1,2-diol | 39.0 g, yield: 92% | BrC1=CC(=C(C(=C1)O)O)F | C6H4BrFO2
